US08232409B2
B. 1-Oxa-2-aza-spiro[4.5]dec-2-ene-3-carbaldehyde
3-Dimethoxymethyl-1-oxa-2-aza-spiro[4.5]dec-2-ene (1.06 g, 4.97 mmol, as prepared in the previous step) was placed in a 50 mL round-bottom flask equipped with a stir bar. Acetone (20 mL), water (0.3 mL), and Amberlyst-15 resin (200 mg) were added. The mixture was stirred at rt for 24 h. The solids were removed by filtration and rinsed with acetone (20 mL), and the solvent was removed under reduced pressure. The residue was purified by column chromatography using a 40-g SiO2 pre-packed column eluting with EtOAc/heptane, 0:1 to 3:2, v/v over 30 min, yielding 451 mg (54%) of the desired compound. 1H-NMR (400 MHz, CDCl3) δ: 9.90 (s, 1H), 2.81 (s, 2H), 1.72-1.87 (m, 4H), 1.58-1.69 (m, 2H), 1.40-1.53 (m, 4H).

reactant | 3-Dimethoxymethyl-1-oxa-2-aza-spiro[4.5]dec-2-ene | COC(C1=NOC2(C1)CCCCC2)OC | C11H19NO3
reactant | Acetone | 20 mL | CC(=O)C | C3H6O
solvent | water | 0.3 mL | O | H2O
product | 1-Oxa-2-aza-spiro[4.5]dec-2-ene-3-carbaldehyde | 451 mg, 54% | O1N=C(CC12CCCCC2)C=O | C9H13NO2
